US07498337B2
ethyl 2-chloro-5-(2,6-difluorophenyl)-1H-pyrrole-3-carboxylate
A solution (14 mL) of ethyl 2-cyano-4-(2,6-difluorophenyl)-4-oxobutanoate (13.83 g) in ethyl acetate was added dropwise to 4 mol/L hydrogen chloride-ethyl acetate solution (100 mL) at 10-15° C. The mixture was stirred at room temperature for 12 hr, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=9:1→8:2) to give the title compound as yellow crystals (yield 10.0 g, 68%).

reactant | ethyl 2-cyano-4-(2,6-difluorophenyl)-4-oxobutanoate | 14 mL, 13.83 g | C(#N)C(C(=O)OCC)CC(=O)C1=C(C=CC=C1F)F | C13H11F2NO3
reactant | hydrogen chloride-ethyl acetate | 4 mol/L, 100 mL | C(C)(=O)OCC.Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 2-chloro-5-(2,6-difluorophenyl)-1H-pyrrole-3-carboxylate | yield 10.0 g, 68% | ClC=1NC(=CC1C(=O)OCC)C1=C(C=CC=C1F)F | C13H10ClF2NO2
